US06548495B2
4-[3-(4-Hydroxymethyl-thiazol-2-yl)-phenyl]-7-methyl-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
A mixture of (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J15) (0.145 g) and 3-oxo-3-[3-[4-(tetrahydro-pyran-2-yloxymethyl)-thiazol-2-yl]-phenyl]-propionic acid tert.-butyl ester (Example K19) (0.23 g) in toluene (2 mL) was heated to 100° C. for 5 h. The mixture was cooled and evaporated in vacuum. A solution of the residue in a mixture of CH2Cl2 (2 mL) and TFA (2 mL) was stirred for 0.5 h at 20° C. The mixture was evaporated in vacuum, the residual oil was dissolved in AcOEt and the solution was washed with saturated NaHCO3 solution and with brine, dried over Na2SO4 and evaporated in vacuum. The residue was crystallized from CH2Cl2/hexane to give the title compound (0.04 g) as light-brown crystals.

reactant | (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.145 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)N)=O | C13H17F3N2O2
reactant | 3-oxo-3-[3-[4-(tetrahydro-pyran-2-yloxymethyl)-thiazol-2-yl]-phenyl]-propionic acid tert.-butyl ester | 0.23 g | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C=1SC=C(N1)COC1OCCCC1)=O)=O | C22H27NO5S
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[3-(4-Hydroxymethyl-thiazol-2-yl)-phenyl]-7-methyl-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 0.04 g | OCC=1N=C(SC1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)C)C(F)(F)F | C21H16F3N3O2S
